US04568376
2-(2-Fluorophenyl)-3-oxo-4-(3-trifluoromethylphenyl)-5-allylamino-2,3-dihydrofuran
One gram of sodium hydroxide in 4.0 ml of water was added to a mixture of 4.0 g of 2-(2-fluorophenyl)-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran in 80 ml of methylene chloride at room temperature followed by the addition of 1.44 g of allyl bromide and 0.27 g of benzyltriethylammonium chloride. The resulting two-phase mixture was stirred at room temperature for about 18 hours after which time it was washed three times with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography over silica gel eluting with chloroform to yield 2.5 g of the title compound.

reactant | sodium hydroxide | One gram | [OH-].[Na+]
reactant | 2-(2-fluorophenyl)-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran | 4.0 g | FC1=C(C=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N | C17H11F4NO2
reactant | allyl bromide | 1.44 g | C(C=C)Br | C3H5Br
solvent | water | 4.0 ml | O | H2O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 0.27 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-(2-Fluorophenyl)-3-oxo-4-(3-trifluoromethylphenyl)-5-allylamino-2,3-dihydrofuran | 2.5 g | FC1=C(C=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)NCC=C | C20H15F4NO2
